US06307056B1
(Z)-4-Bromo-1,3-dihydro-3-[(1H-pyrrol-2-yl)methylene]-2H-indol-2-one
A mixture of 4-bromo-1,3-dihydro-2H-indol-2-one (0.2 g, 0.94 mmol) (see Kosuge et al., supra), and excess pyrrole-2-carboxaldehyde (0.11 g, 1.13 mmol) (Aldrich) in 1% piperidine in 2-propanol (2 mL) was heated at 85° C. for 2 h. Hot water (2 mL) was added. On cooling, the crystallized product was filtered off, washed with aqueous 2-propanol and dried. (Yield 0.26 g, 96%).

reactant | 4-bromo-1,3-dihydro-2H-indol-2-one | 0.94 mmol, 0.2 g | BrC1=C2CC(NC2=CC=C1)=O | C8H6BrNO
reactant | pyrrole-2-carboxaldehyde | 1.13 mmol, 0.11 g | N1C(=CC=C1)C=O | C5H5NO
reactant | water | 2 mL | O | H2O
solvent | piperidine | N1CCCCC1 | C5H11N
solvent | 2-propanol | 2 mL | CC(C)O | C3H8O
product | (Z)-4-Bromo-1,3-dihydro-3-[(1H-pyrrol-2-yl)methylene]-2H-indol-2-one | BrC1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC=CC1 | C13H9BrN2O
